US04810719
(a) 4-[1-Phenyl-1H-pyrazol-3-yl]aminophenyl ethanoate
A mixture of 4-(1-phenyl-1H-pyrazol-3-yl)aminophenol (2.0 g), acetic anhydride (4 g) and sulphuric acid (0.2 g) was heated at 100° C. on the steam bath for 15 minutes, water was added and the product was collected by filtration and dried to give the sub-title compound (2.0 g) as a brown solid.

reactant | 4-(1-phenyl-1H-pyrazol-3-yl)aminophenol | 2.0 g | C1(=CC=CC=C1)N1N=C(C=C1)NC1=CC=C(C=C1)O | C15H13N3O
reactant | acetic anhydride | 4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulphuric acid | 0.2 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 4-[1-Phenyl-1H-pyrazol-3-yl]aminophenyl ethanoate | 2.0 g | C(C)(=O)OC1=CC=C(C=C1)NC1=NN(C=C1)C1=CC=CC=C1 | C17H15N3O2
